US07485634B2
Preparation of 1-ethylsulfanyl-3-(4-fluorobenzoyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester
To a solution of 3-(4-fluorobenzoyl)-1-hydroxy-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester (60 mg, 0.3 mmol) in DCM (2 mL) was added trifluoromethanesulfonic anhydride (50 mL, 0.6 mmol) at 0° C. and the mixture was stirred for 1 hour at 0° C. Ethanethiol (34 mL, 0.9 mmol) was added and the reaction mixture was stirred overnight at 20° C. Water was added and organic layer was separated. The aqueous layer was extracted with DCM. The combined organic layer was then washed with water and dried over MgSO4. Evaporation of solvent gave a crude product, which was purified by column chromatography on silica gel, eluted with MeOH-DCM (1:19) to give the title compound (2 mg); 1NMR (CDCl3): δ 8.59 (1H, s), 8.77 (1H, d), 7.54 (2H, m), 7.36 (1H,), 7.19 (1H, m), 7.06 (2H, m), 6.73 (1H, s), 4.41 (2H, m), 4.21-4.30 (3H, m), 2.59-2.69 (2H, m), 1.28 (3H, t), 1.19 (3H, t). MS (ES): 439 (MH+).

reactant | 3-(4-fluorobenzoyl)-1-hydroxy-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | 0.3 mmol, 60 mg | C(C)OC(=O)C1=CN(CC(C2=C1NC=1C=CC=CC21)O)C(C2=CC=C(C=C2)F)=O | C22H19FN2O4
reactant | trifluoromethanesulfonic anhydride | 0.6 mmol, 50 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Ethanethiol | 0.9 mmol, 34 mL | C(C)S | C2H6S
reactant | Water | O | H2O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-ethylsulfanyl-3-(4-fluorobenzoyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | 2 mg | C(C)OC(=O)C1=CN(CC(C2=C1NC=1C=CC=CC21)SCC)C(C2=CC=C(C=C2)F)=O | C24H23FN2O3S
